US07081538B1
3-(t-Butoxycarbonylamino)isoxazole
3-Aminoisoxazole (10 g, 0.12 M) and 4-dimethylaminopyridine (500 mg, 4.1 mM) were dissolved in pyridine (200 ml), and treated in portions with di-t-butyl dicarbonate (51.94 g, 0.24 M). The mixture was stirred at ambient temperature for 18 hours, then evaporated to dryness. The residue was dissolved in methanol (200 ml) and treated with sodium hydroxide solution (2N, 60 ml), then stirred for 2 hours. After acidification with aqueous citric acid (10%, 160 ml), the mixture was added to water (750 ml), and the desired product (15.9 g) collected by filtration.

reactant | 3-Aminoisoxazole | 0.12 M, 10 g | NC1=NOC=C1 | C3H4N2O
reactant | di-t-butyl dicarbonate | 0.24 M, 51.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 4.1 mM, 500 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 3-(t-Butoxycarbonylamino)isoxazole | C(C)(C)(C)OC(=O)NC1=NOC=C1 | C8H12N2O3
